US05756531
Preparation of 5-formyltetrazole-O-2-[Z-5-fluoro-2-methyl-1-(4-pyridyl)methylene-1H-inden-3-yl]ethyl oxime
The title compound is prepared by reaction of O-2-[Z-5-fluoro-2-methyl-1-(4-pyridyl)methylene-1H-inden-3-yl]ethyl hydroxylamine with 5-formyltetrazole by the method of Example 1.

reactant | O-2-[Z-5-fluoro-2-methyl-1-(4-pyridyl)methylene-1H-inden-3-yl]ethyl hydroxylamine | FC=1C=C2C(=C(/C(/C2=CC1)=C/C1=CC=NC=C1)C)CCON | C18H17FN2O
reactant | 5-formyltetrazole | C(=O)C1=NN=NN1 | C2H2N4O
product | 5-formyltetrazole-O-2-[Z-5-fluoro-2-methyl-1-(4-pyridyl)methylene-1H-inden-3-yl]ethyl oxime | FC=1C=C2C(=C(/C(/C2=CC1)=C/C1=CC=NC=C1)C)CCON=CC1=NN=NN1 | C20H17FN6O
